US05292926
N-(2-Mercapto-2-Methylpropionyl)-L-Cysteine N,N-Dimethylamide (Compound No. 17)
To a stirred solution of N-(2-mercapto-2-methylpropionyl)-L-cysteine (1.0 g) in methylene chloride(4 ml), dicyclohexylcarbodiimide (0.5 g) dissolved in methylene chloride(4 ml) was added dropwise. After the addition, the reaction mixture was stirred for 30 minutes under ice cooling and for 1 hour at room temperature. Dimethylamine hydrochloride(0.2 g) and triethylamine(0.4 ml) dissolved in a mixture of methylene chloride (2 ml) and methanol(1 ml) was added dropwise under ice-cooling. The reaction mixture was stirred for 15 minutes under ice-cooling and 3 hours at room temperature. To the reaction mixture, ethylacetate was added and filtered. The organic layer was washed with water and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 0.6 g(50%) of the titled compound.

reactant | N-(2-mercapto-2-methylpropionyl)-L-cysteine | 1.0 g | SC(C(=O)N[C@@H](CS)C(=O)O)(C)C | C7H13NO3S2
reactant | dicyclohexylcarbodiimide | 0.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Dimethylamine hydrochloride | 0.2 g | Cl.CNC
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | N-(2-Mercapto-2-Methylpropionyl)-L-Cysteine N,N-Dimethylamide | 0.6 g, 50% | CN(C([C@@H](NC(C(C)(C)S)=O)CS)=O)C | C9H18N2O2S2
